US07196087B2
4-(3-Benzylamino-2-cyano-6-fluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester
To 655 mg (2.03 mmol) of 4-(2-cyano-3,6-difluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester dissolved in 10 mL DMF was added 560 mg (2 eq., 4.06 mmol) potassium carbonate and 243 μL (1.1 eq., 2.22 mmol) benzylamine. The mixture was heated to 100° C. for 5 days, cooled to room temperature and partitioned between ethyl acetate and water, dried over magnesium sulfate and concentrated. 4-(3-Benzylamino-2-cyano-6-fluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (288 mg) was precipitated from dichloromethane/hexanes.

reactant | 4-(2-cyano-3,6-difluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 2.03 mmol, 655 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=CC=C1F)F)C#N | C16H19F2N3O2
reactant | potassium carbonate | 4.06 mmol, 560 mg, 2 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | benzylamine | 2.22 mmol, 243 μL, 1.1 eq. | C(C1=CC=CC=C1)N | C7H9N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-(3-Benzylamino-2-cyano-6-fluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=CC=C1F)NCC1=CC=CC=C1)C#N | C23H27FN4O2
